US06130238
Crude dimethyl 3'-methoxy-3-nitro-biphenyl-4-malonate was heated at 110° C. in 45 mL 6N hydrochloric acid for 4 days and then cooled. The precipitate was collected by filtration, washed with water and hexane, and dried to give 5.3 g of 3'-methoxy-2-nitrobiphenyl-4-acetic acid as a light tan solid. 3'-Methoxy-3-nitrobiphenyl-4-acetic acid (5.2 g) was dissolved in methanol and hydrogenated over 0.8 g of 10% palladium on carbon for 3 hours at room temperature. The catalyst was removed by filtration, washed with methanol and the filtrates combined and concentrated to give a brown solid. The solid was chromatographed on silica gel in ethyl acetate:hexane:acetic acid (33:66:1) to give 3.0 g of 6-(3-methoxypheny)-2-oxindole as a pink solid.

reactant | 3'-Methoxy-3-nitrobiphenyl-4-acetic acid | 5.2 g | COC=1C=C(C=CC1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 6-(3-methoxypheny)-2-oxindole | 3.0 g | COC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
